US08114868B2
To a solution of (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one (200 mg, 0.48 mmol) in CH2Cl2 (5 mL) was added Et3N (240 mg, 2.4 mmol) and methanesulfonyl chloride (164 mg, 1.4 mmol) at 0° C. The reaction solution was stirred at it for 1 h. The reaction was quenched with H2O and the mixture was extracted with CH2Cl2. The organic phase was concentrated to give 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl methanesulfonate (234 mg, 98%), which was used for the next step without further purification.

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | 0.48 mmol, 200 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCO)=O | C21H24BrNO3
reactant | Et3N | 2.4 mmol, 240 mg | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.4 mmol, 164 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propyl methanesulfonate | 234 mg, 98% | CS(=O)(=O)OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C22H26BrNO5S
